2175-07-05 08:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2175-7-4**] 12:00 PM
 LUMBAR PUNCTURE - At [**2175-7-4**] 03:15 PM
 EKG - At [**2175-7-4**] 11:50 PM
 MAGNETIC RESONANCE IMAGING - At [**2175-7-5**] 03:32 AM
   CT head showed ?R parietal lesion.  LP performed, and MRI scan
   completed to assess lesion, awaiting final read.  TF held since 6AM.
   Bedside LENI's negative for DVT.  As sedation is weaned, patient
   becomes more agitated with tachypnea, which resolves with propofol
   increase.
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsDyazide (Oral)
   (Triamterene/Hydrochlorothiazid)
   Unknown;
   Prozac (Oral) (Fluoxetine Hcl)
   Unknown;
   Nsaids
   Unknown;
   Inderal (Oral) (Propranolol Hcl)
   Unknown;
   Cefazolin
   laryngeal ed
   Last dose of Antibiotics:
   Vancomycin - [**2175-7-3**] 06:30 PM
   Meropenem - [**2175-7-4**] 09:30 AM
   Nafcillin - [**2175-7-5**] 04:21 AM
   Infusions:
   Propofol - 18 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2175-7-5**] 06:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-7-5**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 97 (60 - 97) bpm
   BP: 131/50(71) {65/27(39) - 182/63(100)} mmHg
   RR: 26 (12 - 42) insp/min
   SpO2: 96%
   Heart rhythm: RBBB (Right Bundle Branch Block)
   Wgt (current): 65.8 kg (admission): 66 kg
   Height: 64 Inch
             Total In:
                                                                    915 mL
                                                                    557 mL
   PO:
             TF:
                                                                    123 mL
                                                                     96 mL
   IVF:
                                                                    732 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                    680 mL
                                                                    325 mL
   Urine:
                                                                    150 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
                                                                    480 mL
                                                                    325 mL
   Balance:
                                                                    235 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 326 (300 - 424) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 25 cmH2O
   SpO2: 96%
   ABG: 7.42/38/99.[**Numeric Identifier 128**]/22/0
   Ve: 5.9 L/min
   PaO2 / FiO2: 330
   Physical Examination
   Gen- Sedated, NAD
   HEENT- NCAT, ETT in place, no JVD,
   Pulm- Coarse b/l BS
   CV- S1/S2 no MGR
   Abd- Soft, NTND, +bs.  Perc drain of gallbladder draining non-bloody,
   non-purulent fluid
   Ext- No LE Edema
   Labs / Radiology
   555 K/uL
   10.6 g/dL
   246 mg/dL
   7.6 mg/dL
   22 mEq/L
   3.4 mEq/L
   36 mg/dL
   100 mEq/L
   144 mEq/L
   33.9 %
   14.8 K/uL
        [image002.jpg]
                             [**2175-7-4**]  12:44 AM
                             [**2175-7-4**]  01:16 AM
                             [**2175-7-4**]  04:17 AM
                             [**2175-7-4**]  04:39 AM
                             [**2175-7-4**]  08:25 AM
                             [**2175-7-4**]  12:46 PM
                             [**2175-7-4**]  03:49 PM
                             [**2175-7-5**]  04:24 AM
                             [**2175-7-5**]  04:44 AM
                             [**2175-7-5**]  06:03 AM
   WBC
   15.3
   14.8
   Hct
   34.7
   32.6
   32.3
   30.9
   33.9
   Plt
   420
   555
   Cr
   5.0
   7.6
   TropT
   1.79
   TCO2
   27
   28
   27
   22
   25
   Glucose
   230
   246
   Other labs: PT / PTT / INR:13.8/25.1/1.2, CK / CKMB /
   Troponin-T:601/4/1.79, ALT / AST:35/59, Alk Phos / T Bili:104/0.6,
   Amylase / Lipase:171/35, Differential-Neuts:73.8 %, Band:3.0 %,
   Lymph:18.2 %, Mono:5.9 %, Eos:1.6 %, Fibrinogen:960 mg/dL, Lactic
   Acid:1.0 mmol/L, Albumin:3.7 g/dL, LDH:312 IU/L, Ca++:10.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM): possibly [**12-26**] sepsis vs ICP vs
   agitation.  LP performed yesterday.
   - F/U LP results
   - F/U CT head and MRI head
   - attempt to lighten sedation with anxiolytics on board see if patient
   less agitated.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): patient continues
   switching between AC and PSV.  As sedation is weaned, she becomes
   tachypneic and agitated, leading to more sedation, respiratory
   depression and worsened respiratory status.
   -c/s neuromuscular service regarding respiratory failure, possibly due
   to weaknes
   -check lipase for propofol sedation
   -CVVH or HD to get fluid off for respiratory status
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE): ESRD s/p failed renal txp, on HD.
   - HD today per renal
   - f/u renal recs
   -if unable to HD today due to BP, switch to CVVH
 HYPOTENSION (NOT SHOCK)- pt intermittantly requires pressors, and
   then reflexively becomes tachycardic. Currently off neo.
   -change HD to CVVH if BP fall, but plan to take off fluid today.
   -make effort not to restart Neo unless CVVH attempted or compelled by
   urgency
 BACTEREMIA MSSA: Abx d/c'd yesterday, and nafcillin started back
   yesterday.
   -continue nafcillin
   -f/u bcxs, CSF cxs
 CHOLECYSTITIS, CALCULOUS.  Perc drained by surgery.  Surgery ready to
   sign off.
   - continue to monitor output.
 ALTERATION IN NUTRITION
   -holding TF for possible extubation
 DM: NPH increased o/n
   -check FSBG q6 with NPH + ISS
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA).
   earlier in admission had ventricular arrhythmias on pressors, now
   resolved after 1d heparin drip and lidocaine drip.
   - Cont. to monitor for dysrrhythmias
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2175-6-26**] 07:00 PM
   Arterial Line - [**2175-6-27**] 05:37 AM
   Dialysis Catheter - [**2175-6-29**] 05:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:  bundle ordered
   Comments:
   Communication:  Comments:  w/ family
   Code status: Full code
   Disposition:ICU